US05958910
3,4-Dimethoxy-N-(4-naphthalen-2-yl-thiazol-2-yl)-benzenesulfonamide
A mixture of 10 g of 4-(2-naphthyl)-thiazol-2-ylamine hydrobromide with 8.5 g of 3,4-dimethoxy-benzenesulfonyl chloride was stirred for 18 hours with 40 ml of pyridine. The resulting, red colored suspension was poured into 400 ml of 1N hydrochloric acid and the mixture was extracted with ethyl acetate. The organic phase was dried with magnesium sulphate and (sic) concentrated. The residue was dissolved in a mixture of 500 ml of ethanol and 400 ml of 2N sodium hydroxide solution. After the addition of 10 g of active charcoal the mixture was stirred at room temperature for 30 minutes and subsequently the active charcoal was filtered off. 11.1 g of 3,4-dimethoxy-N-(4-naphthalen-2-yl-thiazol-2-yl)-benzenesulfonamide separated upon neutralization with concentrated hydrochloric acid in the form of colorless crystals, which were recrystallized from ethanol/water.

reactant | 4-(2-naphthyl)-thiazol-2-ylamine hydrobromide | 10 g | Br.C1=C(C=CC2=CC=CC=C12)C=1N=C(SC1)N
reactant | 3,4-dimethoxy-benzenesulfonyl chloride | 8.5 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | hydrochloric acid | 1N, 400 ml | Cl | ClH
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-Dimethoxy-N-(4-naphthalen-2-yl-thiazol-2-yl)-benzenesulfonamide | COC=1C=C(C=CC1OC)S(=O)(=O)NC=1SC=C(N1)C1=CC2=CC=CC=C2C=C1 | C21H18N2O4S2
